US04760192
A mixture of 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-mesitylcyclohex-2-en-1-one (2.4 g), anhydrous methyl ethyl ketone (25 ml) and anhydrous potassium carbonate (1.65 g) was treated dropwise, with stirring, with benzoyl chloride (1.12 g). The mixture was heated under reflux with stirring for a period of 30 minutes and then filtered. The residue was washed with diethyl ether and the solvent from the combined filtrate and washings was evaporated under reduced pressure. The residue was taken up in ethyl acetate and the solution was washed twice with water, dried, and the solvent was evaporated under reduced pressure to give a dark brown oil. The oil was purified by chromatography on preparative thin layer chromatography plates (silica gel; eluent hexane/diethyl ether 75:25) to give 3-benzoyloxy-2-[1-(ethoxyimino)propyl]-5-mesitylcyclohex-2-en-1-one (1.9 g).

reactant | 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-mesitylcyclohex-2-en-1-one | 2.4 g | C(C)ON=C(CC)C=1C(CC(CC1O)C1=C(C=C(C=C1C)C)C)=O | C20H27NO3
reactant | potassium carbonate | 1.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | 1.12 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methyl ethyl ketone | 25 ml | C(C)C(=O)C | C4H8O
product | 3-benzoyloxy-2-[1-(ethoxyimino)propyl]-5-mesitylcyclohex-2-en-1-one | 1.9 g | C(C1=CC=CC=C1)(=O)OC1=C(C(CC(C1)C1=C(C=C(C=C1C)C)C)=O)C(CC)=NOCC | C27H31NO4
